US05464855
4-[(Diphenoxyphosphinyl)oxy]-2,5-dihydro-3-thiophenecarboxylic acid methyl ester
To a solution of 3-carbomethoxytetrahydrothiophene-4-one (Gianturco M. A., Friedel P., Giammarino A. S., Tetrahedron, 20:1772 (1964)) (4.0 g, 25 mmol) and triethylamine (6.6 g, 65 mmol) in 50 mL dry THF at 0° was added, over a 15 minute period, diphenylchlorophosphate (17.5 g, 65 mmol). The reaction mixture was stirred at room temperature for 2 days, then treated with ice-cold water and extracted with diethyl ether. The extracts were washed with saturated NaHCO3, brine, dried with Na2SO4, and evaporated to yield an oil (10.6 g).

reactant | 3-carbomethoxytetrahydrothiophene-4-one | 25 mmol, 4.0 g | C(=O)(OC)C1CSCC1=O | C6H8O3S
reactant | triethylamine | 65 mmol, 6.6 g | C(C)N(CC)CC | C6H15N
reactant | diphenylchlorophosphate | 65 mmol, 17.5 g | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-[(Diphenoxyphosphinyl)oxy]-2,5-dihydro-3-thiophenecarboxylic acid methyl ester | 10.6 g | COC(=O)C=1CSCC1OP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H17O6PS
